Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old woman with migraines,
abdominal migraines, fibroids s/p ablation, fatty liver, HTN, 
HL,
and history of atrophic gastritis, who presented to the ED with
chest pain in the setting of recent right leg pain after a GI
illness. She has a history of intermittent GI symptoms, and 
about
2 weeks ago had acute nausea and vomiting that led to her being
in bed several days. She noted about one week ago that she had
mild R leg pain, which she described as being at the base of the
calf. She otherwise had recovered from her GI illness and was
going to the gym, where she noted that the pain was slightly 
more
noticeable. She went to her massage therapist, who massaged the
leg, and she noticed that the pain moved from the lower leg to
just behind the knee. It remained constant there fore several
days and then about ___ days ago she started noticing
intermittent shooting pains in her chest. these were mostly
located on the L side, but also a small amount on the R side. 
She
denies any cough or experiencing any dyspnea, although she 
states
that her partner ___ thought she seemed slightly more dyspneic
than normal and so recommended presenting to care. She also
noticed that after a work-out she felt slightly lightheaded.
However, she denied any dyspnea or worsening of chest pain with
her normal work-out. She otherwise denies any other new 
symptoms.
She reports easy bruising at baseline but denies significant
bleeding history. 

Her family history is notable for a brother who had a provoked 
PE
after a 15 hour plain flight, who is on Coumadin. 

She initially presented to clinic and due to concern for PE was
sent to the ED. In the ED she underwent a CTA which showed a LLL
subsegmental PE with small associated infarct and trace 
effusion,
no R heart strain. She had HRs in ___, normotensive, satting
mostly 100% on RA. She was started on a heparin gtt in the ED 
and
admitted to the floor. 

 
Past Medical History:
migraines
abdominal migraines
fibroids s/p ablation
fatty liver
HTN
HL
atrophic gastritis
 
Social History:
___
___ History:
Brother - provoked PE
M - DM2
F, PGM - MI
MGM - breast ca
MGF - cirrhosis
PGF - ?phlebitis, skin cancer
Counsin - DVT
 
Physical Exam:
24 HR Data (last updated ___ @ 1129)
    Temp: 98.4 (Tm 98.4), BP: 143/87 (139-150/82-95), HR: 62
(62-68), RR: 18 (___), O2 sat: 97%  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, R pupil>L (baseline)
ENT: Ears and nose without visible erythema, masses, or trauma.
MMMs
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, slight TTP.  Bowel sounds
present.  
GU: No suprapubic tenderness
MSK: No swollen or erythematous joints, no muscle compartment
tenderness
SKIN: No rashes or ulcerations noted
EXTR: wwp, no edema
NEURO: Alert, interactive, face symmetric, gaze conjugate with
EOMI, speech fluent, motor function grossly intact/symmetric
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 01:01PM BLOOD WBC: 6.7 RBC: 4.29 Hgb: 12.8 Hct: 39.7
MCV: 93 MCH: 29.8 MCHC: 32.2 RDW: 13.2 RDWSD: 44.___ 
___ 01:01PM BLOOD ___: 17.0* PTT: 33.6 ___: 1.6* 
___ 01:01PM BLOOD Glucose: 109* UreaN: 7 Creat: 0.7 Na: 138
K: 4.4 Cl: 103 HCO3: 26 AnGap: 9* 
___ 01:01PM BLOOD cTropnT: <0.01 proBNP: Pending 

___ duplex
No evidence of deep venous thrombosis in the right lower
extremity veins. 

CTA chest ___ 
Left lower lobe subsegmental acute pulmonary embolism with small
associated pulmonary infarct and trace left pleural effusion.  
No
right heart strain. Additional thin linear web like filling
defects in other pulmonary artery branches suggesting chronic
pulmonary emboli. 

EKG 
NSR, QTc 410, borderline inferior qwaves, borderline LVH, no
evidence of R heart strain

 
Brief Hospital Course:
#Acute PE
___ is a ___ year old woman with migraines, 
abdominal migraines, fibroids s/p ablation, fatty liver, HTN, 
HL, and history of atrophic gastritis, who presented to the ED 
with chest pain in the setting of recent right leg pain after a 
GI illness, found to have acute L subsegmental PE. No evidence 
of R heart strain based on troponin, CT, and EKG, which is 
consistent with small clot. No residual ___ clot seen on duplex. 
She was initially started on heparin in the ED but then changed 
to apixaban upon admission to the ward. Given her family history 
she may have an inherited thrombophilia. However it was 
discussed with her that this work-up should be considered in the 
outpatient setting. She was monitored on telemetry and underwent 
repeat labs. Given lack of symptoms or concerning findings and 
patient preference to return home, she was discharged earlier 
than initially anticipated. She was counseled about precautions 
while on anticoagulation. It was recommended she ensure she is 
up to date on appropriate malignancy screening. Since the 
potential provoking factor (GI illness with resulting 
immobility) was somewhat equivocal, it would be reasonable to 
refer to hematology to determine a plan for duration of 
anticoagulation and further testing. 

#Migraines
- continued home propranolol (remained normotensive while taking 
this as inpatient)

#HL
- continued home statin

Transitional issues:
- consider hematology referral: will need to determine optimal 
duration of anticoagulation, and ?indication/timing for 
thrombophilia testing
- ensure up to date on all appropriate malignancy screening
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Propranolol 20 mg PO BID 
2. Atorvastatin 20 mg PO DAILY 
3. SUMAtriptan 5 mg/actuation nasal PRN migraine 
4. ValACYclovir ___ mg PO PRN coldsore 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q4H:PRN Pain  
2.  Apixaban ___ mg PO BID 
10 mg twice daily for 7 days. Then 5 mg twice daily.   
3.  Atorvastatin 20 mg PO DAILY  
4.  Propranolol 20 mg PO BID  
5.  SUMAtriptan 5 mg/actuation nasal PRN migraine  
6.  ValACYclovir ___ mg PO PRN coldsore  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute pulmonary embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital due to a small blood clot that 
started in your leg and spread to your lung (pulmonary 
embolism). Your vital signs, labs, and symptoms were stable and 
reassuring. You were started on a blood thinner called apixaban 
(or eliquis). This should be taken at a dose of 10 mg twice 
daily for one week and then reduced to 5 mg twice daily. You 
will need to take this at least three months. You can discuss 
with your primary care doctor whether it would be worth testing 
for inherited disorders that effect blood clotting, and to 
determine exactly how long to continue the medication. As we 
discussed, you should follow appropriate precautions for being 
on a blood thinner. 
 
Followup Instructions:
___